US04472407
A solution of 100.7 g (0.625 mole) of 6-fluoroquinaldine in 125 ml of 1,2-dichloroethane was added slowly over 30 minutes to 126.5 g (0.95 mole) of aluminum chloride in 125 ml of 1,2-dichloroethane. The mixture was heated to 70° to 80° C., and 32 ml of liquid bromine was added dropwise over 4 hours. The mixture was stirred and heated at 80° to 85° C. for 20 hours, and was then poured over 1.5 liters of ice. After stirring thoroughly, the mixture was acidified with 50 ml of concentrated hydrochloric acid. Zinc chloride (85 g) was added, and the mixture was stirred for 10 minutes. The mixture was cooled in an ice bath, and the solid product was separated by filtration and washed sequentially with cold 3N hydrochloric acid and dichloromethane. The solid was slurried in water and neutralized with concentrated ammonium hydroxide. Filtration provided a solid which was dissolved in toluene. The solution was dried over magnesium sulfate, and then evaporated to provide a residue which was recrystallized from hexane to provide 5-bromo-6 -fluoroquinaldine. The structure was confirmed by a nuclear magnetic resonance spectral analysis.

reactant | 6-fluoroquinaldine | 0.625 mole, 100.7 g | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | aluminum chloride | 0.95 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | BrBr | Br2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Zinc chloride | 85 g | [Cl-].[Zn+2].[Cl-]
product | 5-bromo-6 -fluoroquinaldine | BrC1=C2C=CC(=NC2=CC=C1F)C | C10H7BrFN
